US09351965B2
Preparation of tert-butyl(1R)-3-((1H-indazol-1-yl)methyl)-3-hydroxycyclohexylcarbamate
NaH (1.1 mmol) was added to a vial containing indazole (2.2 mmol) in DMF (1 ml). The mixture was stirred at rt for 15 mins, then added tert-butyl-1-oxaspiro[2.5]octaN-5-ylcarbamate (0.22 mmol). The reaction was stirred at 60° C. overnight. Upon completion, the mixture was quenched by water (3 mL). The mixture was extracted using dichloromethane (3×5 mL). The extracts were combined and dried using anhydrous sodium sulfate. The product was purified using HPLC.

reactant | NaH | 1.1 mmol | [H-].[Na+]
reactant | indazole | 2.2 mmol | N1N=CC2=CC=CC=C12 | C7H6N2
reactant | tert-butyl-1-oxaspiro[2.5]octaN-5-ylcarbamate | 0.22 mmol | C(C)(C)(C)OC(NC1CC2(CO2)CCC1)=O | C12H21NO3
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | tert-butyl(1R)-3-((1H-indazol-1-yl)methyl)-3-hydroxycyclohexylcarbamate | N1(N=CC2=CC=CC=C12)CC1(C[C@@H](CCC1)NC(OC(C)(C)C)=O)O | C19H27N3O3
